US06420375B1
(ii) Preparation of (E)-3-(2-naphthyl)-2-propen-1-ol
A solution of diisobutylaluminum hydride in toluene (1.5M, 18 ml) was added dropwise to a solution of methyl (E)-3-(2-naphthyl)-acrylate (2.52 g) in CH2Cl2 at −78 ° C. and the mixture was stirred at −78° C. for 1 hour. Saturated aqueous solution of NH4Cl was added to the mixture and organic layer was washed with 1N HCl and brine, dried and concentrated. The residue was crystallized from CH2Cl2-hexane to give the titled compound (1.78 g) as a white solid.

reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methyl (E)-3-(2-naphthyl)-acrylate | 2.52 g | C1=C(C=CC2=CC=CC=C12)/C=C/C(=O)OC | C14H12O2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | toluene | 1.5M, 18 ml | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (E)-3-(2-naphthyl)-2-propen-1-ol | 1.78 g | C1=C(C=CC2=CC=CC=C12)/C=C/CO | C13H12O
